US07094779B2
To a solution of acetophenone oxime (20 g) in toluene (700 mL) was added subsequently tetrabutylammonium bromide (4.77 g), water (8 mL), 4-(2-chloroethyl)morpholine hydrochloride (30.31 g) and finally 50% sodium hydroxide (aq, 52 mL). The resulting mixture was heated at 75° C. overnight. After cooling to room temperature water was added, to dissolve all the salts, the layers were separated, and the aqueous layer was extracted with toluene. The organic layers were dried (MgSO4), and concentrated in vacuo. The residue was purified by flash chromatography (SiO2, CH2Cl2/MeOH 95/5) to afford acetophenone O-[2-((morpholin-4-yl))ethyl]oxime as an oil. The obtained oil was dissolved in 6M HCl (aq, 500 mL) and heated under reflux for 5 hours and subsequently stirred overnight at room temperature. The mixture was extracted with ether and concentrated in vacuo. The residue was crystallized from ethanol, to afford O-[2-((morpholin-4-yl))ethyl]hydroxylamine dihydrochloride. 24.8 g (77%)

reactant | acetophenone oxime | 20 g | C(C)(C1=CC=CC=C1)=NO | C8H9NO
reactant | water | 8 mL | O | H2O
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 30.31 g | Cl.ClCCN1CCOCC1
reactant | sodium hydroxide | 52 mL | [OH-].[Na+]
solvent | toluene | 700 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 4.77 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | acetophenone O-[2-((morpholin-4-yl))ethyl]oxime | N1(CCOCC1)CCON=C(C)C1=CC=CC=C1 | C14H20N2O2
